US07776875B2
To dry tetrahydrofuran (50 mL) was added 1M THF solution of LiHMDS (45 mmol, 45 mL) under Ar protection at room temperature, followed by the addition of 5-chloro-2-methoxy-benzaldehyde (7.65 g, 45 mmol). After the mixture was stirred at room temperature for 1 h, trimethylsilyl chloride (5.6 mL, 45 mmol) was added dropwise. Then the temperature of the mixture was lowered to 0° C. on a cooling ice bath. To this mixture was added triethylamine (8.1 mL, 58.5 mmol) in one portion, followed by the dropwise addition of a solution of acetyl chloride (4.17 mL, 58.5 mmol) in diethyl ether (200 mL). The cooling bath was removed, and the mixture was stirred at room temperature for 4 h. The mixture was quickly filtered on celite under nitrogen, and filtrate was concentrated under reduced pressure to give crude 1-(5-chloro-2-methoxy-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | LiHMDS | 45 mmol, 45 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 5-chloro-2-methoxy-benzaldehyde | 45 mmol, 7.65 g | ClC=1C=CC(=C(C=O)C1)OC | C8H7ClO2
reactant | trimethylsilyl chloride | 45 mmol, 5.6 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 58.5 mmol, 8.1 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 58.5 mmol, 4.17 mL | C(C)(=O)Cl | C2H3ClO
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | THF | 1M | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-(5-chloro-2-methoxy-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | ClC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC | C13H18ClNO2Si
